US07378415B2
7-Benzenesulfonyl-4-(1-benzyl-pyrrolidin-3-yl)-3,4-dihydro-2H-benzo[1,4]oxazine (0.127 g, 0.292 mmol) was dissolved in 15 mL ethanol and this solution was added to a flask containing 35 mg of 5% palladium on charcoal, followed by 3 drops of glacial acetic acid. The system was purged with hydrogen gas and stirring was continued for 24 hours under 1 atm. of hydrogen gas. The reaction mixture was filtered through celite, the filtrate concentrated in vacuo, and the resulting solid purified by flash (6:0.4:0.04 of CH2Cl2:MeOH:NH4OH) to give 45 mg of 7-benzenesulfonyl-4-pyrrolidin-3-yl-3,4-dihydro-2H-benzo[1,4]oxazine as free base. This solid was dissolved in 1 mL methanol and combined with 0.5 mL of 2N ethanolic hydrogen chloride and the resulting solution is concentrated in vacuo and subjected to a vacuum of 0.3 Torr for 2 hours to give a foam which was triturated twice with 50 mL ethyl ether to give, after drying under reduced pressure, 25 mg (0.07 mmol, 25%) of 7-benzenesulfonyl-4-pyrrolidin-3-yl-3,4-dihydro-2H-benzo[1,4]oxazine hydrochloride as a tan solid. MS: 345 (M+H)+, mp: 122.8-127.6° C.

reactant | 7-Benzenesulfonyl-4-(1-benzyl-pyrrolidin-3-yl)-3,4-dihydro-2H-benzo[1,4]oxazine | 0.292 mmol, 0.127 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C2CN(CC2)CC2=CC=CC=C2)C=C1 | C25H26N2O3S
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 35 mg | [Pd] | Pd
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
product | 7-benzenesulfonyl-4-pyrrolidin-3-yl-3,4-dihydro-2H-benzo[1,4]oxazine | 45 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C2CNCC2)C=C1 | C18H20N2O3S
